US05500406
1.55 g (10 mmol) of 2-amino-4,6-dimethoxypyrimidine was dissolved in 40 ml of dry tetrahydrofuran, and 1.42 g (10 mmol) of chlorosulfonyl isocyanate was dropwise added thereto in a range of from -20° C. to -15° C. The reaction temperature was raised to 0° C., and the mixture was cooled again to -20° C. Then, a mixture comprising 2.60 g (10 mmol) of N-ethyl-N-methyl-S-methylisothiourea hydroiodide, 2.22 g (22 mmol) of triethylamine and 30 ml of dry tetrahydrofuran, was added thereto. The reaction temperature was raised to room temperature, and the mixture was further stirred at the same temperature for one hour. Then, the solvent was distilled off under reduced pressure, and 80 ml of water was added to the obtained residue. The mixture was extracted three times with 50 ml of chloroform. The chloroform layer was washed with water, and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure. Obtained crystals were washed with acetonitrile to obtain 1.32 g of desired 1-[N-((methylthio-N-ethyl-N-methylamino)methylene)aminosulfonyl]-3-(4,6-dimethoxypyrimidin-2-yl)urea.

reactant | 2-amino-4,6-dimethoxypyrimidine | 10 mmol, 1.55 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | chlorosulfonyl isocyanate | 10 mmol, 1.42 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N-ethyl-N-methyl-S-methylisothiourea hydroiodide | 10 mmol, 2.60 g | I.C(C)N(C(SC)=N)C
reactant | triethylamine | 22 mmol, 2.22 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-[N-((methylthio-N-ethyl-N-methylamino)methylene)aminosulfonyl]-3-(4,6-dimethoxypyrimidin-2-yl)urea | 1.32 g | CSCN(CC)C=NS(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C12H20N6O5S2
